US06740670B2
To a solution of N-phenylpiperazine (200 mg) and diiosopropylethylamine (130 mg) in dimethylformamide (1 ml) was added 3-[[(methylsulfonyl)oxy]methyl]-4-phenylmethoxybenzaldehyde (320 mg). After stirring at room temperature for 3 hours the reaction mixture was partially concentrated under reduced pressure and the residue was purified by flash chromatography column using petroleum ether:diethyl ether (1:3) as eluant. The pure fractions were combined and evaporated under reduced pressure to give a gum which was crystallized from diethyl ether to give 4-phenylmethoxy-3-[[(4-phenyl)-1-piperazinyl]methyl]benzaldehyde (320 mg) as white crystals. 1H NMR (CDCl3) δ9.95 (s, 1H, CHO); 5.23 (s, 2H); 3.80 (s, 2H); 3.30 (m, 4H); 2.78 (m, 4H). TLC (silica gel): Rf=0.7 (petroleum ether:diethyl ether, 1:4).

reactant | N-phenylpiperazine | 200 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 3-[[(methylsulfonyl)oxy]methyl]-4-phenylmethoxybenzaldehyde | 320 mg | CS(=O)(=O)OCC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C16H16O5S
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-phenylmethoxy-3-[[(4-phenyl)-1-piperazinyl]methyl]benzaldehyde | 320 mg | C1(=CC=CC=C1)COC1=C(C=C(C=O)C=C1)CN1CCN(CC1)C1=CC=CC=C1 | C25H26N2O2
